US09351965B2
Preparation of tert-butyl 3-(hydroxymethyl)cyclohexylcarbamate
To a solution of methyl 3-(tert-butoxycarbonylamino)cyclohexanecarboxylate (9 mmol) in THF/MeOH/CH2Cl2 (36 ml, 10:1:1) was added NaBH4 (22.5 mmol) and stirred at rt overnight. The reaction was quenched with water and extracted with CH2Cl2 (3×10 mL). The extracts were combined and dried using anhydrous sodium sulfate. The product was purified using Biotage.

reactant | methyl 3-(tert-butoxycarbonylamino)cyclohexanecarboxylate | 9 mmol | C(C)(C)(C)OC(=O)NC1CC(CCC1)C(=O)OC | C13H23NO4
reactant | NaBH4 | 22.5 mmol | [BH4-].[Na+]
solvent | THF MeOH CH2Cl2 | 36 ml | C1CCOC1.CO.C(Cl)Cl
product | tert-butyl 3-(hydroxymethyl)cyclohexylcarbamate | OCC1CC(CCC1)NC(OC(C)(C)C)=O | C12H23NO3
